US07767675B2
Step 2. 5-(4-bromophenyl)pyrimidin-2-amine
A mixture of (Z)-2-(4-bromophenyl)-3-(dimethylamino)acrylaldehyde (1.27 g, 5 mmol), guanidine hydrochloride (0.525 g, 5.5 mmol) and potassium carbonate (1.38 g, 10 mmol) in ethanol (10 mL) was heated at 80° C. overnight. After cooling, the reaction mixture was filtered, washed with methanol and water, and dried under high vacuum to give the desired product (1.2 g, 96%). LCMS: (M+H)=249.9/251.9.

reactant | (Z)-2-(4-bromophenyl)-3-(dimethylamino)acrylaldehyde | 5 mmol, 1.27 g | BrC1=CC=C(C=C1)/C(/C=O)=C/N(C)C | C11H12BrNO
reactant | guanidine hydrochloride | 5.5 mmol, 0.525 g | Cl.NC(=N)N
reactant | potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-(4-bromophenyl)pyrimidin-2-amine | 1.2 g, 96% | BrC1=CC=C(C=C1)C=1C=NC(=NC1)N | C10H8BrN3
